US05208248
5. Ethyl-4-amino-3-[3'-(N-tert-butyloxycarbonylamino)-1'-acetoxyiminopropyl]benzoate
To a stirred solution of ethyl-4-amino-3-[3'-(N-tert-butyloxycarbonylamino)-1'-hydroxyiminopropyl]benzoate (4.8 g, 14 mmol) and dimethylamino pyridine (1.67 g, 14 mmol) in dichloromethane (200 ml) was added acetic anhydride (1.3 ml, 14 mmol), under an atmosphere of nitrogen. After 2 hours the solution was poured into water (200 ml) and partitioned. The organic layer was separated, washed once more with water (200 ml), then the combined organic phases dried (MgSO4). The solvent was removed in vacuo, to afford an oily solid. Ether (200 ml) was added, and the mixture evaporated in vacuo once more to give a white solid. The solid was taken up in more ether (100 ml) and filtered off, to afford the title compound (4.4 g, 82%) as a white solid. m.p. 130°-135° C. NMR δ (250 MHz, CDCl3) 1.40 (12H, m), 2.27 (3H, s), 3.18 (2 H, t, J=7 Hz), 3.43 (2H, m), 4.33 (2H, q, J=7 Hz), 4.70 (1H, br s), 6.69 (1H, d, J=9 Hz), 7.82 (1H, dd, J=9 and 2 Hz), 8.17 (1H, br s).

reactant | ethyl-4-amino-3-[3'-(N-tert-butyloxycarbonylamino)-1'-hydroxyiminopropyl]benzoate | 14 mmol, 4.8 g | C(C)OC(C1=CC(=C(C=C1)N)C(CCNC(=O)OC(C)(C)C)=NO)=O | C17H25N3O5
reactant | dimethylamino pyridine | 14 mmol, 1.67 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 14 mmol, 1.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | Ether | 200 ml | CCOCC | C4H10O
product | Ethyl-4-amino-3-[3'-(N-tert-butyloxycarbonylamino)-1'-acetoxyiminopropyl]benzoate | 4.4 g, 82% | C(C)OC(C1=CC(=C(C=C1)N)C(CCNC(=O)OC(C)(C)C)=NOC(C)=O)=O | C19H27N3O6
